### PR TITLE
[Merged by Bors] - feat(Analysis): sin_add_le_sin_add_sin

### PR DESCRIPTION
**Pull request by BoltonBailey**
This PR upstreams a lemma from Project Numina's Kakeya project (https://github.com/project-numina/kakeya-3d/) which says that `sin` is subadditive on inputs from 0 to pi. 

AI was used to create this lemma and in the preparation of this PR

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by JX-Mo — APPROVED** [review]

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 1]
```diff
@@ -424,6 +424,12 @@ theorem sin_nonneg_of_mem_Icc {x : ℝ} (hx : x ∈ Icc 0 π) : 0 ≤ sin x := b
 theorem sin_nonneg_of_nonneg_of_le_pi {x : ℝ} (h0x : 0 ≤ x) (hxp : x ≤ π) : 0 ≤ sin x :=
   sin_nonneg_of_mem_Icc ⟨h0x, hxp⟩
 
+theorem sin_add_le_sin_add_sin {x y : ℝ} (h0x : 0 ≤ x) (hxp : x ≤ π) (h0y : 0 ≤ y) (hyp : y ≤ π) :
+    sin (x + y) ≤ sin x + sin y := by
+  rw [sin_add]
+  nlinarith [cos_le_one x, cos_le_one y, sin_nonneg_of_nonneg_of_le_pi h0x hxp,
+    sin_nonneg_of_nonneg_of_le_pi h0y hyp]
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean]: an alternative lemma would be
```suggestion
theorem sin_add_le_sin_add_sin {x y : ℝ} (hx : 0 ≤ sin x) (hy : 0 ≤ sin y) :
    sin (x + y) ≤ sin x + sin y := by
  grw [sin_add, cos_le_one, cos_le_one, mul_one, one_mul]
```
and then if you have the old hypotheses, you can just use `sin_nonneg_of_nonneg_of_le_pi`.

File: Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean [hunk 2]
```diff
@@ -424,6 +424,10 @@ theorem sin_nonneg_of_mem_Icc {x : ℝ} (hx : x ∈ Icc 0 π) : 0 ≤ sin x := b
 theorem sin_nonneg_of_nonneg_of_le_pi {x : ℝ} (h0x : 0 ≤ x) (hxp : x ≤ π) : 0 ≤ sin x :=
   sin_nonneg_of_mem_Icc ⟨h0x, hxp⟩
 
+theorem sin_add_le_sin_add_sin {x y : ℝ} (hx : 0 ≤ sin x) (hy : 0 ≤ sin y) :
+    sin (x + y) ≤ sin x + sin y := by
+  grw [sin_add, cos_le_one, cos_le_one, mul_one, one_mul]
+
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecialFunctions/Trigonometric/Basic.lean:430]: maybe also add these lemmas? 🤔

```lean
theorem abs_sin_add_le (x y : ℝ) : |sin (x + y)| ≤ |sin x| + |sin y| := by
  grw [sin_add, abs_add_le, abs_mul, abs_mul, abs_cos_le_one, abs_cos_le_one, mul_one, one_mul]

theorem abs_sin_sum_le {ι : Type*} (s : Finset ι) (f : ι → ℝ) :
    |sin (∑ i ∈ s, f i)| ≤ ∑ i ∈ s, |sin (f i)| := by
  classical
  induction s using Finset.induction_on' with
  | empty => simp
  | insert i _ hi ht hit h =>
    grw [Finset.sum_insert hit, abs_sin_add_le, h, Finset.sum_insert hit]
```

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

**Review by j-loreaux — COMMENTED** [review]
Thanks

bors merge
